US04230709
(Z)-3-n-Butyl-5-ethylidene-2,4-imidazolidinedione
A solution of (1' RS, 5 SR)-3-n-butyl-5-(1-hydroxyethyl)hydantoin (7.7 g 0.039 mole) in toluene (150 ml) containing methane sulphonic acid (2.5 mole 0.039 mole) was heated under a Dean and Stark apparatus for 48 hours during which time 0.65 ml of water collected (94% of theory). The mixture was cooled to room-temperature and washed with dilute sodium bicarbonate and dried (MgSO4). Removal of the solvent gave a solid which was crystallised from cyclohexane to give the title compound as prisms m.p. 127° C. Yield=3.3 g=46.5%. The following Examples 14-20 illustrate pharmaceutical formulations containing the compound 3-n-butyl-5-methylenehydantoin.

reactant | 3-n-butyl-5-(1-hydroxyethyl)hydantoin | 0.039 mole, 7.7 g | C(CCC)N1C(NC(C1=O)C(C)O)=O | C9H16N2O3
reactant | methane sulphonic acid | 2.5 mole | CS(=O)(=O)O | CH4O3S
reactant | water | 0.65 ml | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | (Z)-3-n-Butyl-5-ethylidene-2,4-imidazolidinedione | C(CCC)N1C(N\C(\C1=O)=C/C)=O | C9H14N2O2
